US07872139B2
3-{5-[4-(Butane-1-sulfonyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-1,1-dicyclohexyl-urea
Prepared as described in general procedure (Q) using 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride (30 mg, 0.06 mmol), DIEA (32 μL, 0.18 mmol) and butane-1-sulfonyl chloride (16 μL, 0.12 mmol) to afford 19 mg (61%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-piperazin-1-ylmethyl-thiazol-2-yl)-urea hydrochloride | 0.06 mmol, 30 mg | Cl.C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CCNCC1)C1CCCCC1
reactant | DIEA | 0.18 mmol, 32 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | butane-1-sulfonyl chloride | 0.12 mmol, 16 μL | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | 3-{5-[4-(Butane-1-sulfonyl)-piperazin-1-ylmethyl]-thiazol-2-yl}-1,1-dicyclohexyl-urea | 19 mg, 61% | C(CCC)S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(N(C1CCCCC1)C1CCCCC1)=O | C25H43N5O3S2
